US08455477B2
7-iodo-5-methoxyimidazo[1,2-a]pyridine (539 mg, 1.97 mmol), phenylboronic acid (719 mg, 5.90 mmol), tetrakis(triphenylphosphine)palladium (0) (227 mg, 0.197 mmol), and sodium carbonate (625 mg, 5.90 mmol) were added to a dry flask. Dioxane (18 ml) and water (2 ml) were added and the reaction mixture was sparged with argon for 5 minutes. The reaction mixture was heated to 85° C. After 16 h, the reaction mixture was cooled, diluted with ethyl acetate, washed with water, then dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (methanol/dichloromethane gradient) to give 5-methoxy-7-phenylimidazo[1,2-a]pyridine. LRMS (ESI) calculated for C14H13N2O [M+H]+, 225.1 found 225.0.

reactant | 7-iodo-5-methoxyimidazo[1,2-a]pyridine | 1.97 mmol, 539 mg | IC1=CC=2N(C(=C1)OC)C=CN2 | C8H7IN2O
reactant | phenylboronic acid | 5.90 mmol, 719 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 5.90 mmol, 625 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Dioxane | 18 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.197 mmol, 227 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 2 ml | O | H2O
product | 5-methoxy-7-phenylimidazo[1,2-a]pyridine | COC1=CC(=CC=2N1C=CN2)C2=CC=CC=C2 | C14H12N2O
